US07432266B2
A mixture of tert-butyl 2-(tetrahydro-2H-pyran-4-yl)hydrazinecarboxylate (3.8 g, 0.018 mol) and trifluoroacetic acid (20 mL, 0.3 mol) were stirred in dichloromethane (20 mL) for 90 minutes. The mixture was concentrated, and the residue was taken up in acetonitrile (30 mL). 1-(2,6-difluoropyridin-3-yl)propan-1-one (2.34 g, 0.0137 mol) was then added, and the resulting mixture was stirred at 75° C. for 72 hours. After cooling to room temperature, the mixture was concentrated, and the residue was purified by flash chromatography on silica gel using a 10-50% hexane:ethyl acetate gradient (flow rate 20 mL/min). The organics were combined and the crude product was then extracted with ethyl acetate. The combined extracts were washed with saturated sodium bicarbonate and then concentrated to afford 2.86 g (83.9%) of 3-ethyl-6-fluoro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine as a white solid. LC/MS (EI) tR 3.5 (Method E), m/z 250 (M++1).

reactant | tert-butyl 2-(tetrahydro-2H-pyran-4-yl)hydrazinecarboxylate | 0.018 mol, 3.8 g | O1CCC(CC1)NNC(=O)OC(C)(C)C | C10H20N2O3
reactant | trifluoroacetic acid | 0.3 mol, 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(2,6-difluoropyridin-3-yl)propan-1-one | 0.0137 mol, 2.34 g | FC1=NC(=CC=C1C(CC)=O)F | C8H7F2NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-ethyl-6-fluoro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine | 2.86 g, 83.9% | C(C)C1=NN(C2=NC(=CC=C21)F)C2CCOCC2 | C13H16FN3O
